US08648152B2
The experiment was carried out in the same manner as in Example 6, except that in Example 6, 1,5-dimethylnaphthalene obtained in Production Example 2 was used in place of the 2,6-dimethylnaphthalene and that methanol was added, thereby obtaining 100 g of a 1,5-dimethylnaphthalene formaldehyde resin which is a viscous liquid at ordinary temperature. The reaction condition and physical properties of the obtained resin are shown in Table 2.

reactant | 1,5-dimethylnaphthalene | CC1=CC=CC2=C(C=CC=C12)C | C12H12
reactant | 2,6-dimethylnaphthalene | CC1=CC2=CC=C(C=C2C=C1)C | C12H12
reactant | methanol | CO | CH4O
product | 1,5-dimethylnaphthalene formaldehyde | 100 g | CC1(CC=CC2=C(C=CC=C12)C)C=O | C13H14O
